US09120771B2
Synthesis of tertiary butyl 3-((benzoyloxy)(3,4-dichlorophenyl)methyl)azetidine-1-carboxylate
Benzoyl chloride (0.1 mL, 1.20 mmol) and DMAP (5 mg, 0.03 mmol) were slowly added to 15 mL of tertiary butyl 3-((3,4-dichlorophenyl)(hydroxy)methyl)azetidine-1-carboxylate (100 mg, 0.302 mmol) and triethylamine (0.07 mL, 0.482 mmol) dissolved in the distilled methylene chloride solution at 0° C., and the mixture was stirred at room temperature for one day. The reaction mixture was extracted with methylene chloride (3*30 mL), and the organic layer was washed with a 1 N HCl aqueous solution and distilled water once, respectively and dried over anhydrous magnesium sulfate. The solvent was removed by reduced pressure evaporation to obtain a colorless liquid, which was purified by flash chromatography (n-hexane:ethyl acetate (2:1, v/v)). The product was identified as a single compound by TLC (n-hexane:ethyl acetate (2:1, v/v)).

reactant | Benzoyl chloride | 1.20 mmol, 0.1 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | tertiary butyl 3-((3,4-dichlorophenyl)(hydroxy)methyl)azetidine-1-carboxylate | 0.302 mmol, 15 mL, 100 mg | ClC=1C=C(C=CC1Cl)C(C1CN(C1)C(=O)OC(C)(C)C)O | C15H19Cl2NO3
reactant | triethylamine | 0.482 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.03 mmol, 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tertiary butyl 3-((benzoyloxy)(3,4-dichlorophenyl)methyl)azetidine-1-carboxylate | C(C1=CC=CC=C1)(=O)OC(C1CN(C1)C(=O)OC(C)(C)C)C1=CC(=C(C=C1)Cl)Cl | C22H23Cl2NO4
